US07494992B2
Preparation 32: 10-(phenylmethyl)-4,10-diazatricyclo[6.3.1.02,7]dodeca-2,4,6-triene
To a solution of 3-(phenylmethyl)-3-azabicyclo[3.2.1]octane-6,7-dicarbaldehye bis (O-methyloxime) (Preparation 33, 5.0 g, 15.2 mmol) in dichloroethane (150 ml) was added trifluoroacetic acid (17 ml) and the reaction mixture was stirred under nitrogen at room temperature for 20 min. The reaction mixture was heated under reflux for 2 h and then concentrated to give a brown oil. Ethyl acetate (100 ml) was added and the solution was treated with saturated sodium carbonate solution (70 ml) the layers were separated and the organic layer washed with brine and dried (Na2SO4) and concentrated to give an oil (4.0 g). The crude oil was purified by flash chromatography using silica gel eluting with ethyl acetate to give the title compound as an orange oil (1.93 g, 51%).

reactant | 3-(phenylmethyl)-3-azabicyclo[3.2.1]octane-6,7-dicarbaldehye bis (O-methyloxime) | 15.2 mmol, 5.0 g | CON=CC1C2CN(CC(C1C=NOC)C2)CC2=CC=CC=C2 | C18H25N3O2
reactant | trifluoroacetic acid | 17 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium carbonate | 70 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | 150 ml | ClC(C)Cl | C2H4Cl2
product | 10-(phenylmethyl)-4,10-diazatricyclo[6.3.1.02,7]dodeca-2,4,6-triene | 4.0 g | C1(=CC=CC=C1)CN1CC2C3=CC=NC=C3C(C1)C2 | C17H18N2
